US07273865B2
a) 2-Morpholin-4-yl-pyridin-4-ylamine
A stirred mixture of 45.8 g (356 mmol) 4-amino-2-chloropyridine in 124 ml morpholine was heated at 200° C. for 30 min in a microwave oven. The resulting yellow solution was then cooled to room temperature whereupon crystals appeared. 400 ml ether was then added and the suspension stirred for 10 minutes before being filtered. The filter cake was washed with ether and dried to afford 92.9 g of crystalline material (87% yield of desired product) which 1H NMR analysis revealed to comprise 60 wt % 2-morpholin-4-yl-pyridin-4-ylamine and 40 wt % morpholine. This material was used in the next step without any further purification. ES-MS m/e (%): 180 (M+H+, 100).

reactant | 4-amino-2-chloropyridine | 356 mmol, 45.8 g | NC1=CC(=NC=C1)Cl | C5H5ClN2
reactant | ether | 400 ml | CCOCC | C4H10O
reactant | morpholine | 124 ml | N1CCOCC1 | C4H9NO
product | 2-Morpholin-4-yl-pyridin-4-ylamine | N1(CCOCC1)C1=NC=CC(=C1)N | C9H13N3O
